US06716850B2
N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-(5-fluoro-2-pyridinyl) Urea
(1S,1aR,7bS)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromene-1-carboxylic acid (50 mg, 0.22 mmol, ee˜90%) was mixed with toluene (1 ml), triethylamine (0.034 ml, 1.1 eq), 2-amino-5-fluoropyridine (28 mg, 1.1 eq), DPPA (0.054 ml, 1.1 eq). The reaction mixture was then heated at stirring at 110° C. for 3 h. The reaction mixture was concentrated by rotary evaporation and purified by column chromatography on silica (50 g, ethylacetate/hexane 1:1) to give 30 mg of the product as white solid.

reactant | (1S,1aR,7bS)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromene-1-carboxylic acid | 0.22 mmol, 50 mg | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3C(=O)O)F | C11H8F2O3
reactant | triethylamine | 0.034 ml, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | 2-amino-5-fluoropyridine | 28 mg, 1.1 eq | NC1=NC=C(C=C1)F | C5H5FN2
reactant | DPPA | 0.054 ml, 1.1 eq | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | N-[(1S,1aR,7bR)-4,7-difluoro-1,1a,2,7b-tetrahydrocyclopropa[c]chromen-1-yl]-N′-(5-fluoro-2-pyridinyl) Urea | 30 mg | FC1=CC=C(C=2[C@H]3[C@@H](COC12)[C@H]3NC(=O)NC3=NC=C(C=C3)F)F | C16H12F3N3O2
